US08048901B2
(1S,3R)/(1R,3S)-3-(tert-Butyldiphenylsilanyloxymethyl)cyclohexanol
10.5 g of (1S,3R)/(1R,3S)-3-hydroxymethylcyclohexanol are dissolved in 300 ml of dimethylformamide, and 23 ml of tert-butyldiphenylsilanyl chloride, 8.0 g of imidazole and 200 mg of dimethylaminopyridine are added. The mixture is stirred at room temperature for 12 hours. The dimethylformamide is removed under reduced pressure and the residue is dissolved in 300 ml of ethyl acetate and washed five times with in each case 100 ml of water. The organic phase is dried over MgSO4 and the solvent is then removed under reduced pressure. This gives 27.0 g of (1S,3R)/(1R,3S)-3-(tert-butyldiphenylsilanyloxymethyl)cyclohexanol as an oil. C23H32O2Si (368.6), Rf(n-heptane:ethyl acetate=1:1)=0.42.

reactant | (1R,3S)-3-hydroxymethylcyclohexanol | OC[C@@H]1C[C@@H](CCC1)O | C7H14O2
reactant | tert-butyldiphenylsilanyl chloride | 23 ml | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 8.0 g | N1C=NC=C1 | C3H4N2
reactant | dimethylaminopyridine | 200 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | (1R,3S)-3-(tert-Butyldiphenylsilanyloxymethyl)cyclohexanol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1C[C@@H](CCC1)O | C23H32O2Si
